US04619924
2-(Methylcarbonylthio)-1-(methylsulfinyl)ethane
m-Chloroperbenzoic acid (2.03 g., 0.01 mole, 85% pure) was added to a solution of 1.5 g (0.01 mole) 2-(methylcarbonylthio)-1-(methylthio)ethane in 40 ml. methylene chloride cooled to -10° C. After stirring at -10° for 2 hr., the solution was washed with two 30 ml. portions of saturated aqueous sodium bicarbonate solution, 30 ml. water and 30 ml. saturated aqueous saturated sodium chloride solution, dried with anhydrous sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography on silica gel, eluting with 10:1 ethyl acetate-methanol to yield 680 mg. (38% yield) of the title compound as an amorphous solid.

reactant | m-Chloroperbenzoic acid | 0.01 mole, 2.03 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-(methylcarbonylthio)-1-(methylthio)ethane | 0.01 mole, 1.5 g | CC(=O)SCCSC | C5H10OS2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(Methylcarbonylthio)-1-(methylsulfinyl)ethane | 38% yield | CC(=O)SCCS(=O)C | C5H10O2S2
